US05240976
N,N,N',N'-Tetradecyl-2-butene-1,4-diamine
A solution of di-n-decylamine (10.9 g, 36.6 mmol) and 2-butene-1,4-diol diacetate (3.15 g, 18.3 mmol) in tetrahydrofuran (THF) (150 ml) is treated with tetrakis(triphenylphosphine)palladium (0) (1.0 g, 0.9 mmol) and stirred at room temperature overnight. The reaction mixture is concentrated in vacuo to a oil that is redissolved in THF (500 ml) and treated with 20% aqueous sodium hydroxide (250 ml). The mixture is stirred for one hour, concentrated, and extracted with ether. The ether extracts are dried and concentrated giving an orange oil which is purified by medium pressure chromatography (silica gel; 25% ethyl acetate in hexanes). The title compound is isolated as 5.8 g (49% yield) of a clear oil.

reactant | di-n-decylamine | 36.6 mmol, 10.9 g | C(CCCCCCCCC)NCCCCCCCCCC | C20H43N
reactant | 2-butene-1,4-diol diacetate | 18.3 mmol, 3.15 g | C(C)(=O)OCC=CCOC(C)=O | C8H12O4
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 0.9 mmol, 1.0 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N,N,N',N'-Tetradecyl-2-butene-1,4-diamine | C(CCCCCCCCC)N(CC=CCN(CCCCCCCCCC)CCCCCCCCCC)CCCCCCCCCC | C44H90N2
